US07851626B2
rac-(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carboxylic acid bis-(2-hydroxy-ethyl)-amide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with bis-(2-hydroxyethyl)-amine (Sigma) to give the title compound. HR-MS (ES, m/z) calculated for C31H33N3O4F3Cl2 [(M+H)+] 638.1795, observed 638.1797.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C27H22Cl3F3N2O2
reactant | bis-(2-hydroxyethyl)-amine | OCCNCCO | C4H11NO2
product | rac-(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carboxylic acid bis-(2-hydroxy-ethyl)-amide | OCCN(C(=O)N1C(=NC(C1(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)OCC)CCO | C31H32Cl2F3N3O4
